US06492394B1
To a solution of D-valine benzyl ester (4 g, 19.3 mmol) and trimethylsilylcyanide (7.2 mL, 57.9 mmol) in acetonitrile (40 mL) was added 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride (4.8 g, 19.3 mmol). After 3 h, the reaction mixture was diluted with ethyl acetate (100 mL) and transferred to a separatory funnel. Aqueous hydrochloric acid (120 mL, 2.5%) was added and the organic layer was separated and washed with 5% sodium bicarbonate and brine and then dried over magnesium sulfate. The organics were removed in vacuo to give 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-methylbutyric acid benzyl ester (8 g) as a brown oil.

reactant | D-valine benzyl ester | 19.3 mmol, 4 g | C(C1=CC=CC=C1)OC([C@H](N)C(C)C)=O | C12H17NO2
reactant | trimethylsilylcyanide | 57.9 mmol, 7.2 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | 4-methoxy-2,3,6-trimethylbenzenesulfonyl chloride | 19.3 mmol, 4.8 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)Cl)C)C | C10H13ClO3S
reactant | hydrochloric acid | 120 mL | Cl | ClH
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3-methylbutyric acid benzyl ester | 8 g | C(C1=CC=CC=C1)OC([C@@H](C(C)C)NS(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C22H29NO5S
